US04849422
Grams 20.5 of 1-(2,3-dihydroxypropyl)piperazine and 11 g of 3-chloropyrazine-2-carboxylic acid methyl ester in 100 ml dioxane were refluxed for one hour. The reaction mixture was cooled and settled, the solvent evaporated and the obtained residue dissolved in concentrated hydrochloric acid and the solution diluted with isopropanol until incipient precipitation. After resting, 12.7 g of 3-[4-(2,3-dihydroxypropyl)piperazin-1-yl]pyrazine-2-carboxylic acid methyl ester dihydrochloride melting at 195°-197° C. (with decomposition), were obtained.

reactant | 1-(2,3-dihydroxypropyl)piperazine | OC(CN1CCNCC1)CO | C7H16N2O2
reactant | 3-chloropyrazine-2-carboxylic acid methyl ester | 11 g | COC(=O)C1=NC=CN=C1Cl | C6H5ClN2O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-[4-(2,3-dihydroxypropyl)piperazin-1-yl]pyrazine-2-carboxylic acid methyl ester dihydrochloride | 12.7 g | Cl.Cl.COC(=O)C1=NC=CN=C1N1CCN(CC1)CC(CO)O | InChI=1S/C13H20N4O4.2ClH/c1-21-13(20)11-12(15-3-2-14-11)17-6-4-16(5-7-17)8-10(19)9-18;;/h2-3,10,18-19H,4-9H2,1H3;2*1H
